US06949542B2
(2-Amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (5-methyl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example A15) (3.40 g, 10.6 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as light gray solid (3.0 g, 97%).

reactant | (5-methyl-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 10.6 mmol, 3.40 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)[N+](=O)[O-])=O | C13H15F3N2O4
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
